US07226926B2
Isopropylmagnesium chloride (2.0M in THF; 5.7 ml, 11.4 mmol) was added dropwise to a stirred, cold (−78° C.) solution of 3-bromo-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine (4.0 g, 10.3 mmol) in THF (80 ml). After 10 min, tri-n-butyltin chloride (3.22 ml, 11.9 mmol) was added in a single portion and the mixture was stirred for 30 min, then warmed to ambient temperature. 2,4-Dichloropyrimidine (2.31 g, 15.5 mmol) was added and the mixture degassed by bubbling through N2. Tetrakis(triphenylphosphine)palladium(0) (1.19 g, 1.03 mmol) and copper(I) iodide (19.7 mg, 0.1 mmol) were then added in single portions and the reaction was heated to reflux for 18 h. On cooling, water (80 ml) was added and the phases separated. The aqueous was extracted with EtOAc (40 ml) and the combined organics washed with brine (40 ml), dried over MgSO4, filtered and concentrated in vacuo. Purified by column chromatography (silica, 0 to 5% MeOH in CH2Cl2) and the semi-pure product washed with 1:2 Et2O/isohexane to afford 3-(2-chloropyrimidin-4-yl)-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine as a white amorphous solid (3.4 g): m/z (ES+) 421 (100%, [MH]+) and 423 (30).

reactant | Isopropylmagnesium chloride | 11.4 mmol, 2.0M, 5.7 ml | C(C)(C)[Mg]Cl
reactant | 3-bromo-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine | 10.3 mmol, 4.0 g | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O[Si](CC)(CC)CC | C16H24BrFN2OSi
reactant | tri-n-butyltin chloride | 11.9 mmol, 3.22 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | 2,4-Dichloropyrimidine | 15.5 mmol, 2.31 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 1.03 mmol, 1.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.1 mmol, 19.7 mg | [Cu]I
solvent | water | 80 ml | O | H2O
product | 3-(2-chloropyrimidin-4-yl)-8-fluoro-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine | ClC1=NC=CC(=N1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O[Si](CC)(CC)CC | C20H26ClFN4OSi
